US03994954
α-(N-t-Butoxycarbonylamino)pyrrole-2-acetic acid n-butyl ester
A solution of 14.5 g. (0.05 mol.) of N-t-butoxycarbonyl-2-acetoxyglycine n-butyl ester and 10 ml. of redistilled pyrrole in 75 ml. of toluene was slowly distilled with replacement of fresh toluene to maintain the volume at 50-75 ml. After 30 minutes the reaction mixture was cooled and concentrated in vacuo. The residue was dissolved in hexane and chromatographed on alumina (Woelm, activity II) with hexane-benzene followed by benzene to give the title compound.

reactant | N-t-butoxycarbonyl-2-acetoxyglycine n-butyl ester | 0.05 mol | C(CCC)OC(C(NC(=O)OC(C)(C)C)OC(C)=O)=O | C13H23NO6
reactant | pyrrole | N1C=CC=C1 | C4H5N
product | α-(N-t-Butoxycarbonylamino)pyrrole-2-acetic acid n-butyl ester | C(CCC)OC(C(C=1NC=CC1)NC(=O)OC(C)(C)C)=O | C15H24N2O4
